US09315467B2
Part C. A mixture of 4-(4-isopropyl-phenyl)-pyridine-N-oxide (126 mg, 0.59 mmol) and phosphorus oxychloride (5 mL) is heated to reflux for 12 h. The mixture is cooled and evaporated, and the residue is dissolved in water, neutralized with satd. aq. Na2CO3 and extracted with ethyl acetate. The extract is washed with brine, dried over magnesium sulfate, filtered and evaporated. The residue is separated by column chromatography to afford 2-chloro-4-(4-isopropyl-phenyl)-pyridine (110 mg, 81%).

reactant | 4-(4-isopropyl-phenyl)-pyridine-N-oxide | 0.59 mmol, 126 mg | C(C)(C)C1=CC=C(C=C1)C1=CC=[N+](C=C1)[O-] | C14H15NO
reactant | phosphorus oxychloride | 5 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 2-chloro-4-(4-isopropyl-phenyl)-pyridine | 110 mg, 81% | ClC1=NC=CC(=C1)C1=CC=C(C=C1)C(C)C | C14H14ClN
